US08008279B2
p-Toluenesulfonic acid (129 mg, 0.75 mmol) was added to piperidin-4-one hydrochloride (50.8 mg, 0.37 mmol) and 1-(diphenylmethylene)-2-(4-fluoro-2-methoxyphenyl)hydrazine (80.0 mg, 0.25 mmol) in ethanol (1.25 mL) at 25° C. over a period of 1 min under air. The resulting suspension was stirred at 80° C. for 16 hours. The reaction mixture was diluted with EtOH (20 mL), and EtOAC (100 mL) then washed sequentially with saturated NaHCO3 (75 mL), saturated NaHCO3 (75 mL), and saturated brine (75 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and pure fractions were evaporated to dryness to afford crude product. The crude product was purified by preparative HPLC (containing 0.1% NH3, CH3CN/H2O) as eluents. Fractions containing the desired compound were evaporated to dryness to afford 8-fluoro-6-methoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (25.0 mg, 46%) as an off-white solid.

reactant | p-Toluenesulfonic acid | 0.75 mmol, 129 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | piperidin-4-one hydrochloride | 0.37 mmol, 50.8 mg | Cl.N1CCC(CC1)=O
reactant | 1-(diphenylmethylene)-2-(4-fluoro-2-methoxyphenyl)hydrazine | 0.25 mmol, 80.0 mg | C1(=CC=CC=C1)C(=NNC1=C(C=C(C=C1)F)OC)C1=CC=CC=C1 | C20H17FN2O
solvent | ethanol | 1.25 mL | C(C)O | C2H6O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 8-fluoro-6-methoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 25.0 mg, 46% | FC1=CC=2C3=C(NC2C(=C1)OC)CCNC3 | C12H13FN2O
